US06235731B1
2) Synthesis of N-[2-(2,6-dioxo-4-(3-phenylpropan-1-yl)piperazin-1-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride
To a solution of 1.56 g (3.28 mmol.) of N-[2-(2,6-dioxo-4-(3-phenylpropan-1-yl)piperazin-1-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide in ethanol (10 ml) was added, at room temperature, 2 ml (24 mmol.) of 12N hydrochloric acid. The mixture was stirred for several minutes, which was concentrated under reduced pressure to leave crystals. To the crystals was added ethanol, which was subjected to filtration to collect the crystals. The crystals was washed with ethanol and diethyl ether to give the object compound as an orange crystalline product. The yield was 1.20 g (66%).

reactant | N-[2-(2,6-dioxo-4-(3-phenylpropan-1-yl)piperazin-1-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | 3.28 mmol, 1.56 g | O=C1N(C(CN(C1)CCCC1=CC=CC=C1)=O)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C25H25N5O3S
reactant | hydrochloric acid | 24 mmol, 12N, 2 ml | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-[2-(2,6-dioxo-4-(3-phenylpropan-1-yl)piperazin-1-yl)ethan-1-yl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide dihydrochloride | Cl.Cl.O=C1N(C(CN(C1)CCCC1=CC=CC=C1)=O)CCNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | InChI=1S/C25H25N5O3S.2ClH/c31-22-16-28(12-5-8-18-6-2-1-3-7-18)17-23(32)29(22)13-11-26-25(33)20-14-19-15-27-21-9-4-10-24(34-20)30(19)21;;/h1-4,6-7,9-10,14-15H,5,8,11-13,16-17H2,(H,26,33);2*1H
